US07638517B2
To a room temperature (RT) solution of 1-(tert-butyl-dimethyl-silanyl)-1H-pyrrolo[2,3-b]pyridine (Synthesis 1999, 615-620) (2.88 g, 9.47 mmol) in acetonitrile (20 ml) was added Meldrum's acid (1.5 g, 10 mmol), benzaldeyde (1.9 ml, 19 mmol) triethylamine (TEA) (1.9 ml, 14 mmol) and proline (catalytic quantity). The mixture was stirred overnight at RT, concentrated, and the residue was partitioned between EtOAc and brine. The aqueous layer was extracted twice with EtOAc. The organic layers were combined, dried over Na2SO4, filtered, concentrated, and purified via flash chromatography (hexane/EtOAc), affording 2,2-dimethyl-5-[phenyl-(1H-pyrrolo[2,3-b]pyridin-3-yl)-methyl]-[1,3]dioxane-4,6-dione.

reactant | 1-(tert-butyl-dimethyl-silanyl)-1H-pyrrolo[2,3-b]pyridine | 9.47 mmol, 2.88 g | C(C)(C)(C)[Si](N1C=CC=2C1=NC=CC2)(C)C | C13H20N2Si
reactant | Meldrum's acid | 10 mmol, 1.5 g | CC1(OC(=O)CC(=O)O1)C | C6H8O4
reactant | benzaldeyde | 19 mmol, 1.9 ml | C(C1=CC=CC=C1)=O | C7H6O
reactant | proline | N1[C@H](C(=O)O)CCC1 | C5H9NO2
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 2,2-dimethyl-5-[phenyl-(1H-pyrrolo[2,3-b]pyridin-3-yl)-methyl]-[1,3]dioxane-4,6-dione | CC1(OC(C(C(O1)=O)C(C1=CNC2=NC=CC=C21)C2=CC=CC=C2)=O)C | C20H18N2O4
